US07563816B2
Step B: (3-Isobutyryl-6-methoxy-1H-indazol-1-yl)acetic acid
Dissolve 1.68 g ethyl (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetate in 50 mL MeOH at 45° C. Add 10 mL water and 1.5 mL 5 N NaOH solution. The resulting mixture was heated overnight and evaporated to dry. The residue was taken up in water, acidified with 0.8 mL concentrated HCl, and extracted with 3×50 mL EtOAc. The combined organic extract was washed with water and saturated brine, dried over anhydrous Na2SO4, and evaporated to give the title compound as a white solid. 1H NMR (CDCl3, 500 MHz) δ 8.27 (d, 8.9 Hz, 1H), 7.01 (dd, 2.1 & 8.9 Hz, 1H), 6.69 (d, 2.1 Hz, 1H), 5.23 (s, 2H), 3.91 (s, 3H), 3.85 (heptet, 6.9 Hz, 1H), 1.28 (d, 7.1 Hz, 6H). In NOE difference spectrum, irradiation of the 5.23 ppm singlet showed positive NOE at the 6.69 ppm doublet. LC-MS: 2.94 min. (m/Z=277.0, 299.0).

reactant | ethyl (3-isobutyryl-6-methoxy-1H-indazol-1-yl)acetate | 1.68 g | C(C(C)C)(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)OCC | C16H20N2O4
reactant | water | 10 mL | O | H2O
reactant | NaOH | 5 N, 1.5 mL | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | (3-Isobutyryl-6-methoxy-1H-indazol-1-yl)acetic acid | C(C(C)C)(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O | C14H16N2O4
